US04681895
Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (3.0 g, 0.013 mole) (which is prepared by the method as disclosed in Japanese Patent First Publication No. 19694/1977, C.A., 87, 53269x) and benzyl anthranilate (3.4 g, 0.015 mole) are added to pyridine (25 ml), and thereto is added dicyclohexylcarbodiimide (3.1 g, 0.015 mole), and the mixture is stirred at room temperature for 72 hours. After the completion of the reaction, water (10 ml) is added to the reaction mixture, and the mixture is stirred for 30 minutes, and the undissolved materials are filtered off. The filtrate is concentrated to driness. The resulting residue is washed with ethyl acetate (100 ml) and recrystallized from water to give N-(o-benzyloxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride (3.2 g) as white crystals. m.p. 93°-95° C.

reactant | Trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 0.013 mole, 3.0 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | benzyl anthranilate | 0.015 mole, 3.4 g | C(C=1C(N)=CC=CC1)(=O)OCC1=CC=CC=C1 | C14H13NO2
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | dicyclohexylcarbodiimide | 0.015 mole, 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | water | 10 ml | O | H2O
product | N-(o-benzyloxycarbonylphenyl)-trans-4-guanidinomethylcyclohexanecarboxamide hydrochloride | 3.2 g | Cl.C(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)NC(=O)[C@@H]1CC[C@H](CC1)CNC(=N)N | InChI=1S/C23H28N4O3.ClH/c24-23(25)26-14-16-10-12-18(13-11-16)21(28)27-20-9-5-4-8-19(20)22(29)30-15-17-6-2-1-3-7-17;/h1-9,16,18H,10-15H2,(H,27,28)(H4,24,25,26);1H/t16-,18-;
